US04985419
2.4N ethereal hydrochloric acid (2.9 cc) is added to a solution of 2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}phenothiazine, L series (1.8 g) in absolute ethanol (14 cc). The solution thereby obtained is added dropwise to ethyl ether (500 cc) with brisk stirring. When the addition is complete, the suspension is stirred for 15 minutes at 25° C. and the mixture is filtered and washed with ethyl ether (3×25 cc) and the cake is then dried at 40° C. under reduced pressure (10 mm Hg; 1.3 kPa). 2-(3a,4,5,6,7,7a-Hexahydro-1H-benzimidazol-2-yl)-10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}phenothiazine dihydrochloride, L series (1.48 g) is thereby obtained in the form of an amorphous pale yellow solid, m.p. 240° C.

reactant | hydrochloric acid | 2.4N, 2.9 cc | Cl | ClH
reactant | 2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}phenothiazine | N1C(=NC2C1CCCC2)C2=CC=1N(C3=CC=CC=C3SC1C=C2)C(CN2[C@H](CCC2)CO)C | C27H34N4OS
reactant | ethyl ether | 500 cc | C(C)OCC | C4H10O
solvent | ethanol | 14 cc | C(C)O | C2H6O
product | 2-(3a,4,5,6,7,7a-Hexahydro-1H-benzimidazol-2-yl)-10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}phenothiazine dihydrochloride | Cl.Cl.N1C(=NC2C1CCCC2)C2=CC=1N(C3=CC=CC=C3SC1C=C2)C(CN2[C@H](CCC2)CO)C | InChI=1S/C27H34N4OS.2ClH/c1-18(16-30-14-6-7-20(30)17-32)31-23-10-4-5-11-25(23)33-26-13-12-19(15-24(26)31)27-28-21-8-2-3-9-22(21)29-27;;/h4-5,10-13,15,18,20-22,32H,2-3,6-9,14,16-17H2,1H3,(H,28,29);2*1H/t18?,20-,21?,22?;;/m1../s1
